2165-11-10 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2165-11-9**] 12:00 PM
   Pt was started on a Heparin drip for a new UE DVT while on the floor,
   then developed GI bleed with maroon stool and HCT drop then received 2
   units of PRBCs and was transferred back to the MICU.
   His HCT was stable overnight at 28.0
   Pt had CT-Abd/pelvis showing likely new L femoral vein clot
   Stool now brown, guaiac positive (rectal tube in place)
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2165-11-9**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-10**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 71 (67 - 85) bpm
   BP: 105/53(78) {88/45(60) - 134/66(81)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 64.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,030 mL
                  PO:
                  TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    227 mL
                                                                    100 mL
   Urine:
                                                                    227 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    803 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   Gen:  Awake and alert.  Oriented to place, year, self. Not oriented to
   month.
   HEENT:   Mucous membranes moist. Dopoff in place
   Neck:  supple
   CV:   Distant heart sounds, S1, S2, regular and not tachy.
   Resp:  Bronchial breath sounds at left base with b/l crackles at bases.
   Abd:  +BS, soft, not tender, mildly distended.
   Extrem:  UE with +3 pitting edema b/l; no edema in LE b/l.  Left PICC
   in place.
   Neuro:  resting tremor of hands.
   Labs / Radiology
   273 K/uL
   9.7 g/dL
   85 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.5 mEq/L
   26 mg/dL
   100 mEq/L
   135 mEq/L
   28.0 %
   9.4 K/uL
        [image002.jpg] Prior HCT 28.9 baseline 30-33
   CXR:
   Moderately enlarged bilateral pleural effusions greater on the right
   side with
   adjacent basal atelectases are unchanged. There are low lung volumes.
   Cardiac size is top normal, is accentuated by the low lung volumes. NG
   tube
   tip is out of view below the diaphragm.
                             [**2165-11-2**]  02:37 AM
                             [**2165-11-2**]  05:35 PM
                             [**2165-11-3**]  01:48 AM
                             [**2165-11-3**]  05:46 PM
                             [**2165-11-3**]  05:53 PM
                             [**2165-11-4**]  04:08 AM
                             [**2165-11-5**]  04:00 AM
                             [**2165-11-5**]  02:41 PM
                             [**2165-11-9**]  05:08 PM
                             [**2165-11-10**]  12:50 AM
   WBC
   16.6
   18.0
   15.6
   14.6
   14.2
   9.4
   Hct
   34.5
   33.6
   33.5
   32.0
   31.9
   32.4
   32.8
   28.9
   28.0
   Plt
   [**Telephone/Fax (3) 2380**]
   Cr
   0.8
   0.9
   0.8
   0.9
   0.8
   0.8
   0.7
   Glucose
   156
   142
   154
   147
   167
   148
   85
   Other labs: PT / PTT / INR:14.7/27.4/1.3, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**4-20**], Alk Phos / T Bili:60/0.2,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:198 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   76y/o M with PMH C. diff colitis requiring MICU stay for septic shock
   with being transferred to MICU with BRBPR in the setting of heparin gtt
   for RUE DVT.
   # BRBPR - occuring in the setting of heparin gtt with supratherapuetic
   level for RUE DVT. Pt with 5pt HCT drop over 2 days now stable.  GI and
   surgery following.
   - heparin gtt discontinued
   - Has 18 gauge, 20 gauge  PIV in addition to PICC
   - transfused 2 units with stable HCT overnight, no further episodes of
   melena or maroon stool
   - Check HCT [**Hospital1 7**], transfuse for <25, will likely require lasix with
   transfusions
   - type and cross x 6 units
   - Consider tagged RBC vs angio if pt decompensated
   - appreciate GI and surgery recs
   - Abdominal CT given concern for ischemic bowel in setting of bleed
   with mild hypotension
   - Will change PPI infusion to PPI IV BID
   - Per GI, planned to get flex sig tomorrow, NPO p MN
   # L femoral vein clot, UE DVT: Pt had CT abd/pelvis with left femoral
   vein clot seen. In setting of GIB on heparin gtt, would need IVC filter
   for DVT
   -          US to eval for DVT
   -          Will consult IR for IVC filter placement if has DVT; will
   give mucomyst prior and after to contrast load given age, creatinine
   clearance
   # C.diff: clinically improving. WBC has fallen to 9 from peak of 34.
   Abdomen soft, NT/ND, but pt continues to have loose stools.
   - Taper abx per GI recs: PO vancomycin and IV flagyl for C.diff
   - monitor for fever, trend WBC
   # Volume status:
   Currently normotensive. Renal function stable at Cr of 0.7
   - IV fluids as needed to maintain urine output
   - may require lasix
   - Monitor VS, I/O, Cr
   - Continue 150 cc q6 via NG tube, NPO p MN
   # Bronchial breath sounds:
   No fever or leukocytosis to indicate infection.  [**Month (only) 51**] be [**3-9**] hiatal
   hernia.
   - Follow AM CXR
   # AFIB with RVR: resolved for now, sinus on EKG currently
   - Continue Amiodarone.
   # Myocardial Ischemia:
   Elevated ST segments on presentation in setting of clean coronaries per
   cath report c/w demand ischemia.
   - Continue Statin
   - Holding ASA 81 mg given GI bleed
   - Biomarkers trended down
   # Parkinsons:
   - Continue Sinemet 25-100 TID
   # Sacral decub:
   - continue to change dressing q3days, frequent turns
   # Back pain:
   Stable, chronic spinal stenosis.
   - Vicodin 5/500 Q6HRS PRN Back Pain
   # Hypertension:
   - hold BP meds in setting of GI bleed
   # FEN/GI:
   - Replete lytes prn.
   - Hold bowel regimen in setting of loose stools:
   Colace/Senna/Bisacodyl/MOM PRN.
   - [**Name2 (NI) 1014**] finger sticks with SSI.
   - hold tube feeds given GI bleed
   # PPx: pneumoboots, no heparin given bleed
   # Access: PIV 22gauge, 18 gauge, left PICC
   # Code: DNR/DNI
   # Communication: [**First Name5 (NamePattern1) 209**] [**Last Name (NamePattern1) 1800**]: [**Telephone/Fax (1) 1801**]
   # Dispo: MICU until stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2165-11-9**] 12:00 PM
   18 Gauge - [**2165-11-9**] 04:00 PM
   22 Gauge - [**2165-11-9**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Known lastname 1830**] with the ICU team.  The note above
   reflects my input.  Although I entered a note in Metavision on [**2165-11-10**],
   I cannot locate it at present and this is a late entry.  Mr. [**Known lastname 1830**] is
   known to the MICU team and returns to the ICU with a GI bleed that was
   temporally associated with heparinization.  Clinical bleeding abated,
   and he was seen by GI, who is considering a flex sig.  Other issues as
   detailed by Dr. [**Last Name (STitle) 2391**] above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2165-11-11**] 09:31 ------

2165-11-11 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   LENIS: Complete occlusion L popliteal vein extending into L common
   femoral. No DVT RLE
   IR called: IVC filter placed 8pm. No [**Last Name (LF) 2409**], [**First Name3 (LF) **] no mucomyst after.
   Received mucomyst
   3pm [**First Name3 (LF) 2410**] 18.7 from 28.9 but drawn with serous fluid per nurse. [**First Name (Titles) 2411**] [**Last Name (Titles) 2410**]
   27
   NPO for flex sig in am by GI.
   Midline leaking so pulled by IV nurse. Lost 22 gauge PIV. PICC ordered
   urgently. IR did not want to place when did IVC, will do Monday. Has
   RUE DVT.
   No transfusions x 24 hours.
   Per GI this am, no need to urgently scope and would prefer to defer
   given active inflammation, bowel wall thickening on CT. Thickened wall
   looks improved on CT. GI reviewed CT and no mass seen.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-11-10**] 12:58 PM
   Metronidazole - [**2165-11-10**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-11-10**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-11**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.4
C (95.7
   HR: 79 (58 - 88) bpm
   BP: 148/72(88) {100/55(67) - 154/84(97)} mmHg
   RR: 18 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 64.6 kg
   Height: 70 Inch
                  Total In:
                                                                    800 mL
                                                                     90 mL
   PO:
                  TF:
                                                                     39 mL
   IVF:
                                                                    391 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    200 mL
   Urine:
                                                                    725 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -725 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Gen:  Awake and alert.  Oriented to place, year, month, date, day,
   person.
   HEENT:   Mucous membranes moist. Dophoff in place
   Neck:  Supple
   CV:   Distant heart sounds, S1, S2, regular and not tachy. 1/6 systolic
   murmur LUSB
   Resp:  Bronchial breath sounds with b/l crackles at bases (anteriorly).
   Abd:  +BS, soft, not tender, mildly distended.
   Extrem:  UE with +1 pitting edema b/l; no edema in LE b/l.  Left PIV.
   R groin dsg with minimal serosang drainage. No hematoma. No
   bruit/thrill. Non-tender.
   Neuro:  resting tremor of left hand.
   Labs / Radiology
   249 K/uL
   9.3 g/dL
   65 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   23 mg/dL
   102 mEq/L
   136 mEq/L
   26.1 %
   6.7 K/uL
        [image002.jpg]
   U/S: DVT LLE involving left common femoral, SFV, popliteal. No DVT RLE.
   CXR: Improved pulmonary edema. Relatively unchanged
                             [**2165-11-3**]  05:46 PM
                             [**2165-11-3**]  05:53 PM
                             [**2165-11-4**]  04:08 AM
                             [**2165-11-5**]  04:00 AM
                             [**2165-11-5**]  02:41 PM
                             [**2165-11-9**]  05:08 PM
                             [**2165-11-10**]  12:50 AM
                             [**2165-11-10**]  02:35 PM
                             [**2165-11-10**]  04:58 PM
                             [**2165-11-11**]  02:12 AM
   WBC
   14.6
   14.2
   9.4
   6.7
   [**Year (4 digits) **]
   32.0
   31.9
   32.4
   32.8
   28.9
   28.0
   18.2
   27.0
   26.1
   Plt
   [**Telephone/Fax (3) 2412**]49
   Cr
   0.9
   0.8
   0.8
   0.7
   0.7
   Glucose
   147
   167
   148
   85
   65
   Other labs: PT / PTT / INR:13.4/22.6/1.1, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**4-20**], Alk Phos / T Bili:60/0.2,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:198 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   76y/o M with PMH C. diff colitis requiring MICU stay for septic shock
   with being transferred to MICU with BRBPR in the setting of heparin gtt
   for RUE DVT.
   # BRBPR - occuring in the setting of heparin gtt with supratherapuetic
   level for RUE DVT. Pt with 5pt [**Month/Year (2) 2410**] drop over 2 days now stable.  GI and
   surgery following.
   - heparin gtt discontinued
   - Has 18 gauge. Will attempt to place PIV. Would place R fem line if
   needs urgent IV access
   - no further maroon stool or need for transfusions
   - Check [**Month/Year (2) 2410**] [**Hospital1 7**], transfuse for <25, may require lasix with transfusions
   - typed and cross x 6 units
   - Consider tagged RBC vs angio if pt decompensated
   - appreciate GI and surgery recs
   - Abdominal CT given concern for ischemic bowel in setting of bleed
   with mild hypotension
   - Will change PPI infusion to PPI IV BID
   - Per GI, planned to get flex sig tomorrow, NPO p MN
   # L femoral vein clot, UE DVT: Pt had CT abd/pelvis with left femoral
   vein clot seen. In setting of GIB on heparin gtt, would need IVC filter
   for DVT
   -          US to eval for DVT
   -          Will consult IR for IVC filter placement if has DVT; will
   give mucomyst prior and after to contrast load given age, creatinine
   clearance
   # C.diff: clinically improving. WBC has fallen to 9 from peak of 34.
   Abdomen soft, NT/ND, but pt continues to have loose stools.
   - Taper abx per GI recs: PO vancomycin and IV flagyl for C.diff
   - monitor for fever, trend WBC
   # Volume status:
   Currently normotensive. Renal function stable at Cr of 0.7
   - IV fluids as needed to maintain urine output
   - may require lasix
   - Monitor VS, I/O, Cr
   - Continue 150 cc q6 via NG tube, NPO p MN
   # Bronchial breath sounds:
   No fever or leukocytosis to indicate infection.  [**Month (only) 51**] be [**3-9**] hiatal
   hernia.
   - Follow AM CXR
   # AFIB with RVR: resolved for now, sinus on EKG currently
   - Continue Amiodarone.
   # Myocardial Ischemia:
   Elevated ST segments on presentation in setting of clean coronaries per
   cath report c/w demand ischemia.
   - Continue Statin
   - Holding ASA 81 mg given GI bleed
   - Biomarkers trended down
   # Parkinsons:
   - Continue Sinemet 25-100 TID
   # Sacral decub:
   - continue to change dressing q3days, frequent turns
   # Back pain:
   Stable, chronic spinal stenosis.
   - Vicodin 5/500 Q6HRS PRN Back Pain
   # Hypertension:
   - hold BP meds in setting of GI bleed
   # FEN/GI:
   - Replete lytes prn.
   - Hold bowel regimen in setting of loose stools:
   Colace/Senna/Bisacodyl/MOM PRN.
   - [**Name2 (NI) 1014**] finger sticks with SSI.
   - hold tube feeds given GI bleed
   # PPx: pneumoboots, no heparin given bleed
   # Access: PIV 22gauge, 18 gauge, left PICC
   # Code: DNR/DNI
   # Communication: [**First Name5 (NamePattern1) 209**] [**Last Name (NamePattern1) 1800**]: [**Telephone/Fax (1) 1801**]
   # Dispo: MICU until stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-11-9**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2165-11-11 08:52:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2165-11-10**] 12:00 PM
   LENIs
 PICC LINE - STOP [**2165-11-10**] 04:14 PM
   IVC filter placed
   Midline d/c'd due to dysfunction
   Presently only has 18g IV
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-11-10**] 12:58 PM
   Metronidazole - [**2165-11-11**] 04:27 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-11-11**] 12:28 AM
   Other medications:
   amio, SQI, vanc oral, sinemet, statin, flagyl, ppi
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-11**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96.1
   HR: 81 (58 - 88) bpm
   BP: 138/67(84) {100/56(68) - 154/84(97)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 64.6 kg
   Height: 70 Inch
             Total In:
                                                                    800 mL
                                                                    366 mL
   PO:
             TF:
                                                                     39 mL
   IVF:
                                                                    391 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    540 mL
   Urine:
                                                                    725 mL
                                                                    340 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -725 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.3 g/dL
   249 K/uL
   65 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   23 mg/dL
   102 mEq/L
   136 mEq/L
   26.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2165-11-3**]  05:46 PM
                             [**2165-11-3**]  05:53 PM
                             [**2165-11-4**]  04:08 AM
                             [**2165-11-5**]  04:00 AM
                             [**2165-11-5**]  02:41 PM
                             [**2165-11-9**]  05:08 PM
                             [**2165-11-10**]  12:50 AM
                             [**2165-11-10**]  02:35 PM
                             [**2165-11-10**]  04:58 PM
                             [**2165-11-11**]  02:12 AM
   WBC
   14.6
   14.2
   9.4
   6.7
   Hct
   32.0
   31.9
   32.4
   32.8
   28.9
   28.0
   18.2
   27.0
   26.1
   Plt
   [**Telephone/Fax (3) 2412**]49
   Cr
   0.9
   0.8
   0.8
   0.7
   0.7
   Glucose
   147
   167
   148
   85
   65
   Other labs: PT / PTT / INR:13.4/22.6/1.1, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**4-20**], Alk Phos / T Bili:60/0.2,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:198 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   76 y/o man with complicated recent history returns to MICU for GI
   bleed.
   GI bleed
   -          follow Hct; transfuse if falls further
   -          GI discussing flex sig
   -          Will try to get additional PIVs
   Venous access
   -          PIVs as above
   -          PICC in IR today
   DVTs
   -          LLE DVT
   -          RUE DVT
   -          Failed anticoagulation (GI bleed)
   -          IVC filter in place to protect from lower extremity DVT
   C diff
   -          Oral vanco
   -          See prior notes regarding planned course
   Other issues as per ICU team note from today.
   ICU Care
   Nutrition: NPO for possible flex sig
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-11-9**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : Once better access obtained, and after possible flex sig,
   consider transfer to floor
   Total time spent:  30 min
   Patient is critically ill

2165-11-12 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2165-11-11**] 06:26 PM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-11-10**] 12:58 PM
   Metronidazole - [**2165-11-12**] 06:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-11-12**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-12**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 87 (75 - 97) bpm
   BP: 159/77(97) {127/59(78) - 163/85(110)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 64.6 kg
   Height: 70 Inch
             Total In:
                                                                    555 mL
                                                                    347 mL
   PO:
             TF:
                                                                     75 mL
                                                                    171 mL
   IVF:
                                                                    300 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    155 mL
   Urine:
                                                                    725 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///27/
   Physical Examination
   Gen:  Awake and alert.  Oriented to place, year, month, date, day,
   person.
   HEENT:   Mucous membranes moist. Dophoff in place
   Neck:  Supple
   CV:   Distant heart sounds, S1, S2, regular and not tachy. 1/6 systolic
   murmur LUSB
   Resp:  Bronchial breath sounds with b/l crackles at bases (anteriorly).
   Abd:  +BS, soft, not tender, mildly distended.
   Extrem:  UE with +1 pitting edema b/l; no edema in LE b/l.  Left PIV.
   R groin dsg with minimal serosang drainage. No hematoma. No
   bruit/thrill. Non-tender.
   Neuro:  resting tremor of left hand.
   Labs / Radiology
   296 K/uL
   10.0 g/dL
   104 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   22 mg/dL
   103 mEq/L
   139 mEq/L
   29.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2165-11-4**]  04:08 AM
                             [**2165-11-5**]  04:00 AM
                             [**2165-11-5**]  02:41 PM
                             [**2165-11-9**]  05:08 PM
                             [**2165-11-10**]  12:50 AM
                             [**2165-11-10**]  02:35 PM
                             [**2165-11-10**]  04:58 PM
                             [**2165-11-11**]  02:12 AM
                             [**2165-11-11**]  05:01 PM
                             [**2165-11-12**]  04:26 AM
   WBC
   14.6
   14.2
   9.4
   6.7
   7.7
   Hct
   31.9
   32.4
   32.8
   28.9
   28.0
   18.2
   27.0
   26.1
   29.1
   29.4
   Plt
   [**Telephone/Fax (3) 2412**]49
   296
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   Glucose
   167
   148
   85
   65
   104
   Other labs: PT / PTT / INR:13.4/22.6/1.1, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**4-20**], Alk Phos / T Bili:60/0.2,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:198 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   76y/o M with PMH C. diff colitis requiring MICU stay for septic shock
   with being transferred to MICU with BRBPR in the setting of heparin gtt
   for RUE DVT.
   # BRBPR - occuring in the setting of heparin gtt with supratherapuetic
   level for RUE DVT. Pt with 5pt HCT drop over 2 days now stable.  GI and
   surgery following.
   - heparin gtt discontinued
   - Has 18 gauge. Will attempt to place PIV. Would place R fem line if
   needs urgent IV access
   - no further maroon stool or need for transfusions
   - Check HCT [**Hospital1 7**], transfuse for <25, may require lasix with transfusions
   - typed and cross x 6 units
   - Consider tagged RBC vs angio if pt decompensates
   - On PPI IV BID
   - per GI, no urgent need for flex sig so will defer in setting of
   inflammation. Would not intervene at this time and increased risk in
   setting of inflammation
   # LLE DVT, RUE DVT: Pt had CT abd/pelvis with left femoral vein clot
   seen. US with DVT as above. In setting of GIB on heparin gtt, cannot
   anticoagulate so IVC filter placed
   # C.diff: clinically improving. WBC has fallen to 6.7 from peak of 34.
   Abdomen soft, NT/ND, but pt continues to have loose stools.
   - Off other abx: Continued on PO vancomycin and IV flagyl for C.diff
   - monitor for fever, trend WBC
   # Volume status:
   Currently normotensive. Renal function stable at Cr of 0.7
   - IV fluids as needed to maintain urine output
   - may require lasix  if needs blood
   - Monitor VS, I/O, Cr
   - Keep I/O even to neg 500
   # Bronchial breath sounds:
   No fever or leukocytosis to indicate infection.  [**Month (only) 51**] be [**3-9**] hiatal
   hernia.
   - Follow AM CXR
   # AFIB with RVR: resolved for now, sinus currently
   - Continue Amiodarone.
   # Myocardial Ischemia:
   Elevated ST segments on presentation in setting of clean coronaries per
   cath report c/w demand ischemia.
   - Continue Statin
   - Holding ASA 81 mg given GI bleed
   - Biomarkers trended down
   # Parkinsons:
   - Continue Sinemet 25-100 TID
   # Sacral decub:
   - Resolving, improved per nursing. Continue dressing changes q 3days,
   frequent turns
   # Back pain:
   Stable, chronic spinal stenosis.
   - Vicodin 5/500 Q6HRS PRN Back Pain
   # Hypertension:
   - hold BP meds in setting of GI bleed
   # FEN/GI:
   - Replete lytes prn.
   - Hold bowel regimen in setting of loose stools:
   Colace/Senna/Bisacodyl/MOM PRN.
   - [**Name2 (NI) 1014**] finger sticks with SSI.
   - will restart TF since no longer planned for procedure
   # PPx: pneumoboots, no heparin given bleed
   # Access: 18 gauge. Will attempt to place another PIV. Would need R fem
   line if acute bleed
   # Code: DNR/DNI
   # Communication: [**First Name5 (NamePattern1) 209**] [**Last Name (NamePattern1) 1800**]: [**Telephone/Fax (1) 1801**]
   # Dispo: MICU until stabilized. If obtains peripheral access, Hct
   stable, can go to floor today
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2165-11-11**] 07:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-11-9**] 04:00 PM
   20 Gauge - [**2165-11-11**] 11:05 AM
   PICC Line - [**2165-11-11**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2165-11-12 11:20:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2165-11-11**] 06:26 PM
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Hydantoins
   Unknown;
   Trimethadione/Paramethadione
   Unknown;
   Phenacemide
   Unknown;
   Barbiturates
   Unknown;
   Primidone
   Unknown;
   Gadolinium-Containing Agents
   Unknown;
   Mysoline (Oral) (Primidone)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2165-11-10**] 12:58 PM
   Metronidazole - [**2165-11-12**] 06:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-11-12**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-11-12**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 81 (78 - 97) bpm
   BP: 135/74(87) {127/59(78) - 163/85(110)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.6 kg (admission): 64.6 kg
   Height: 70 Inch
             Total In:
                                                                    555 mL
                                                                    564 mL
   PO:
             TF:
                                                                     75 mL
                                                                    318 mL
   IVF:
                                                                    300 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    925 mL
                                                                    250 mL
   Urine:
                                                                    725 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -370 mL
                                                                    314 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Gen: elderly male lying in bed, conversant
   HEENT: dry o/p dophoff in place
   CV: RR
   Chest: fair air movement
   Abd: soft NT + BS
   Ext: no edema
   Labs / Radiology
   10.0 g/dL
   296 K/uL
   104 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   22 mg/dL
   103 mEq/L
   139 mEq/L
   29.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2165-11-4**]  04:08 AM
                             [**2165-11-5**]  04:00 AM
                             [**2165-11-5**]  02:41 PM
                             [**2165-11-9**]  05:08 PM
                             [**2165-11-10**]  12:50 AM
                             [**2165-11-10**]  02:35 PM
                             [**2165-11-10**]  04:58 PM
                             [**2165-11-11**]  02:12 AM
                             [**2165-11-11**]  05:01 PM
                             [**2165-11-12**]  04:26 AM
   WBC
   14.6
   14.2
   9.4
   6.7
   7.7
   Hct
   31.9
   32.4
   32.8
   28.9
   28.0
   18.2
   27.0
   26.1
   29.1
   29.4
   Plt
   [**Telephone/Fax (3) 2412**]49
   296
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   Glucose
   167
   148
   85
   65
   104
   Other labs: PT / PTT / INR:13.4/22.6/1.1, CK / CKMB /
   Troponin-T:20/3/<0.01, ALT / AST:[**4-20**], Alk Phos / T Bili:60/0.2,
   Amylase / Lipase:17/8, Differential-Neuts:92.2 %, Lymph:5.2 %, Mono:2.3
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:198 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ATRIAL FIBRILLATION (AFIB)
 PARKINSON'S DISEASE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O HYPERTENSION, BENIGN
   76 y/o man with complicated recent history returns to MICU for GI
   bleed.
   GI bleed:follow Hct; transfuse if falls further, PICC, HCT [**Hospital1 7**]
   role for flex sig at present
   DVTs : LLE DVT,  RUE DVT, Failed anticoagulation (GI bleed)
             IVC filter in place to protect from lower extremity DVT
   C diff
   -          Oral vanco
   -          See prior notes regarding planned course
   Other issues as per ICU team note from today.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2165-11-11**] 07:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2165-11-9**] 04:00 PM
   20 Gauge - [**2165-11-11**] 11:05 AM
   PICC Line - [**2165-11-11**] 06:26 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   Communication:  with pt
   [**Name (NI) 36**] status: DNR / DNI
   Call out